US05336778
Step B; 4-[(2'-Cyanobiphenyl-4-yl)methyl]-3-thiosemicarbazide
A mixture of 1.12 g (4.8 mmole) of 4-azidomethyl-2'-cyanobiphenyl, 1.57 g (6.0 mole) of triphenylphoshine, and 8 ml of carbon disulfide was stirred at room temperature under nitrogen for 5.5 hours and then was warmed (water bath) and evaporated to dryness first under a stream of nitrogen and then under reduced pressure. This residue (presumably (2'-cyanobiphenyl-4-yl)methyl isothiocyanate) was dissolved in 12 ml of THF and stirred vigorously at room temperature as 0.699 ml (720 mg, 14.4 mmole) of hydrazine hydrate was added in one bolus. The mixture immediately turned opaque and milky but soon clarified with the separation of a small additional liquid phase. After ten minutes the mixture was partitioned between 40 ml of ether, 25 ml of CH2Cl2, and 75 ml of H2O. Some solid formed and this was filtered off (1.04 g after drying over P2O5 in vacuo) and recrystallized from EtOAc to give 661 mg of the title compound as white crystals, mp 163°-163.5°, Additional material was obtained by reworking the mother liquors and the organic layer of the filtrate affording a, total yield (three crops) was 1.01 g (75% from 4-azidomethyl-2'-cyanobiphenyl), satisfactory purity by TLC in 19:1CH2Ci:MeOH; mass spectrum (FAB) m/e 283 (M+1)+.

reactant | 4-azidomethyl-2'-cyanobiphenyl | 4.8 mmole, 1.12 g | N(=[N+]=[N-])CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10N4
reactant | triphenylphoshine | 6.0 mole, 1.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon disulfide | 8 ml | C(=S)=S | CS2
reactant | hydrazine hydrate | 14.4 mmole, 0.699 ml, 720 mg | O.NN
solvent | water | O | H2O
product | 4-[(2'-Cyanobiphenyl-4-yl)methyl]-3-thiosemicarbazide | 661 mg | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CNC(NN)=S | C15H14N4S
